* C:\Users\berto\NotSync\GitHub\Laboratorio_3\Esperienza_02\Circuiti\Circuito4.asc
C2 0 N005 0.1µ
V3 0 N005 +15
V4 N001 0 +15
R1 V1 N002 10k
Rf OUT N002 68k
R50b V1 0 50
C1 N001 0 0.1µ
XU2 N003 N002 N001 N005 OUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Rg V2 N004 50
R3 V2 N003 10k
Vg N004 0 SINE(0 0.5 200)
R50 V2 0 50
R4 N003 0 68k
V1 V1 0 PULSE(-1 1 0 1n 1n 0.01 0.02 100)
.tran 50m
.lib UniversalOpamps2.sub
.backanno
.end
