* Z:\home\fabio\Laboratorio_3\Esperienza_02\Circuiti\Circuito4.asc
C2 0 N005 0.1µ
V3 0 N005 +15
V4 N001 0 +15
R1 0 N002 10k
Rf OUT N002 68k
R50b 0 0 50
C1 N001 0 0.1µ
XU2 N003 N002 N001 N005 OUT level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
Rg V2 N004 50
R3 V2 N003 10k
Vg N004 0
R50 V2 0 50
R4 N003 0 68k
;tran 5m
.dc Vg 0.2 2 0.01
.lib UniversalOpamp.lib
.backanno
.end
